US04725601
A solution of 2-amino-3-(2-methylbenzylamino)pyridine (2 g) and 3-mesyloxy-5-hexyn-2-one (1.78 g) in ethanol (40 ml) was refluxed for 31.5 hours and then evaporated in vacuo. The residue was treated with aqueous sodium bicarbonate solution and extracted with methylene chloride. The extract was washed with water, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel (40 g) with a mixtutre of methylene chloride and ethyl acetate (50:1 to 10:1) as an eluent to give 8-(2-methylbenzylamino)-3-(2-propynyl)-2-methylimidazo[1,2-a]pyridine (0.82 g).

reactant | 2-amino-3-(2-methylbenzylamino)pyridine | 2 g | NC1=NC=CC=C1NCC1=C(C=CC=C1)C | C13H15N3
reactant | 3-mesyloxy-5-hexyn-2-one | 1.78 g | S(=O)(=O)(C)OC(C(C)=O)CC#C | C7H10O4S
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 8-(2-methylbenzylamino)-3-(2-propynyl)-2-methylimidazo[1,2-a]pyridine | 0.82 g | CC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)CC#C)C=CC=C1 | C19H19N3
